US05585378
5-Methyl-1-[2-[4-(phenylmethyl)-1-piperazinyl]ethyl]-1H-indole-2,3-dione Dihydrochloride
5-Methyl-1H-indole-2,3-dione (12.85 g) in dry DMF (50 ml) at 0° to 5° C. was treated with sodium hydride (80% dispersion in mineral oil, 2.53 g). The mixture was allowed to warm to room temperature and after a further 10 minutes 1-(2-chloroethyl)-4-(phenylmethyl)piperazine (20 g) in dry DMF (70 ml) was added. The mixture was heated at 70° C. for 3 hours and then evaporated under reduced pressure. The residue was subjected to flash chromatography on silica gel to afford the title compound (17.75 g). Treatment with ethanolic HCl then gave 5-methyl-1-[2-[4-(phenylmethyl)-1-piperazinyl]ethyl]-1H-indole-2,3-dione dihydrochloride (16.8 g), m.p. 270°-275° C. (dec.).

reactant | 5-Methyl-1H-indole-2,3-dione | 12.85 g | CC=1C=C2C(C(NC2=CC1)=O)=O | C9H7NO2
reactant | sodium hydride | 2.53 g | [H-].[Na+]
reactant | 1-(2-chloroethyl)-4-(phenylmethyl)piperazine | 20 g | ClCCN1CCN(CC1)CC1=CC=CC=C1 | C13H19ClN2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 70 ml | CN(C)C=O | C3H7NO
product | 5-Methyl-1-[2-[4-(phenylmethyl)-1-piperazinyl]ethyl]-1H-indole-2,3-dione Dihydrochloride | 17.75 g | Cl.Cl.CC=1C=C2C(C(N(C2=CC1)CCN1CCN(CC1)CC1=CC=CC=C1)=O)=O | InChI=1S/C22H25N3O2.2ClH/c1-17-7-8-20-19(15-17)21(26)22(27)25(20)14-13-23-9-11-24(12-10-23)16-18-5-3-2-4-6-18;;/h2-8,15H,9-14,16H2,1H3;2*1H
